US04038328
2-NITRO-4,6-DICHLORO-5-METHYLPHENOL IS PREPARED BY THE SULFONATION OF 4-CHLORO-5-METHYLPHENOL TO FORM 2-SULFO-4-CHLORO-5-METHYLPHENOL WHICH IS CHLORINATED TO 2-SULFO-4,6-DICHLORO-5-METHYLPHENOL WHICH IS IN TURN REACTED WITH NITRIC ACID TO FORM THE DESIRED PRODUCT. The sulfonation is carried out with concentrated sulfuric acid at elevated temperatures to form 2-sulfo-4-chloro-5-methylphenol. Thereafter the reaction mixture is diluted with water to a sulfuric acid content of 20-30%. The resulting 2-sulfo-4-chloro-5-methylphenol is chlorinated with chlorine at elevated temperature and normal or elevated pressures to form 2-sulfo-4,6-dichloro-5-methylphenol which is then reacted with nitric acid.

reactant | 2-sulfo-4-chloro-5-methylphenol | S(=O)(=O)(O)C1=C(C=C(C(=C1)Cl)C)O | C7H7ClO4S
reactant | chlorine | ClCl | Cl2
solvent | water | O | H2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-sulfo-4,6-dichloro-5-methylphenol | S(=O)(=O)(O)C1=C(C(=C(C(=C1)Cl)C)Cl)O | C7H6Cl2O4S
